Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:7].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:8][H:9]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:9],-1.72812338227
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:10]([H:11])([H:12])[H:13].[O:6]=[C:7]([H:8])[H:9],1.20837927463
[H:14].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.25894197696
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]=[C:3]([H:4])[H:5],-1.11738081844
[C:1]#[C:2][C:3](=[O:4])[C:5]([H:6])[H:7]>>[C:1]#[C:2][C:3][C:5]([H:6])[H:7].[O:4],2.86190124335
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]#[C:8][H:9]>>[H:1][C:2][O:3][C:4][O:6][C:7]#[C:8][H:9].[H:5],3.61536190943
[H:10].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][O:11][H:12]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12],-3.6166790896300007
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],8.50773895
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:9]/[C:10]([H:11])([H:12])[H:13].[H:8],1.67275249365
[H:7].[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:8]([H:9])([H:10])[H:11]>>[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-3.28919719165
[H:1].[O:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.45262332648
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.4483889304
[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]#[C:3].[O:4]=[C:5][O:6][C:7]([H:8])([H:9])[H:10],2.61733909465
[C:7]([H:8])#[C:9][C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-3.29427613577
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-1.5906247939899998
[H:1].[O:2][O:3][C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][O:3][C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10],-3.96528143623
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11],4.664159940909999
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9].[H:1][C:2],4.92863803165
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],4.46022555862
[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12],-2.9405980778
[C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.88856493551
[C:2]([O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-7.634993083819999
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[H:10].[H:1][C:2]=[O:3],-2.07908157852
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][C:2]([H:3])([H:4])[C:5][O:6][H:7]>>[O:1][C:2]([H:3])([H:4])/[C:5]([O:6][H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-7.0777362232500005
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9][H:10]>>[H:10].[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9],3.77314814572
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-3.22776964501
[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.97063863123
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]=[O:8].[H:9]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][H:9],-1.98249579655
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13],0.974258103866
[H:1][C:2][O:3][C:4][O:5][C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2].[O:3]=[C:4][O:5][C:6]=[C:7]([H:8])[H:9],3.1393505850700003
